US07709503B2
Intermediate 158: Methyl 6-bromopyridine-2-carboxylate
6-Bromopicolinic acid (411 mg, 2.03 mmol) was slurried in anhydrous MeOH (6 ml). Concentrated sulfuric acid (0.3 ml) was added and the resulting solution was stirred at room temperature for approximately 3 h. EtOAc was added, followed by a saturated solution of sodium bicarbonate. The phases were separated, and the organic phase was washed with water, dried over MgSO4, and concentrated to dryness. The crude ester (313 mg) was used without further purification.

reactant | 6-Bromopicolinic acid | 2.03 mmol, 411 mg | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | MeOH | 6 ml | CO | CH4O
product | Methyl 6-bromopyridine-2-carboxylate | BrC1=CC=CC(=N1)C(=O)OC | C7H6BrNO2
